### PR TITLE
[Merged by Bors] - chore(Data/Nat): split `Defs` into `Init` and `Basic`

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR follows the instructions in a TODO comment in `Data/Nat/Defs.lean` to split it into an `Init.lean` file for everything that doesn't meaningfully depend on Mathlib, and a `Basic.lean` file for things that do. I redid a few proofs in `Nat.Init` so they are provable without reference to Mathlib.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,162 @@
...
+import Mathlib.Logic.Nontrivial.Defs
+import Mathlib.Tactic.Contrapose
+import Mathlib.Tactic.GCongr.CoreAttrs
+import Mathlib.Tactic.PushNeg
+import Mathlib.Util.AssertExists
+
+/-!
+# Basic operations on the natural numbers
+
+This file builds on `Data.Nat.Init` by adding basic lemmas on natural numbers
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Basic.lean:17]:
```suggestion
This file builds on `Mathlib.Data.Nat.Init` by adding basic lemmas on natural numbers
```

File: Mathlib/Data/Nat/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+
+instance instNontrivial : Nontrivial ℕ := ⟨⟨0, 1, Nat.zero_ne_one⟩⟩
+
+attribute [gcongr] Nat.succ_le_succ Nat.div_le_div_right Nat.div_le_div_left Nat.div_le_div
+
+/-! ### `succ`, `pred` -/
+
+lemma succ_injective : Injective Nat.succ := @succ.inj
+
+lemma succ_ne_succ : succ m ≠ succ n ↔ m ≠ n := succ_injective.ne_iff
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Basic.lean:59]: Consider moving to Init

File: Mathlib/Data/Nat/Init.lean [hunk 3]
```diff
@@ -176,8 +148,9 @@ lemma forall_lt_succ : (∀ m < n + 1, p m) ↔ (∀ m < n, p m) ∧ p n := by
   simp only [Nat.lt_succ_iff, Nat.le_iff_lt_or_eq, or_comm, forall_eq_or_imp, and_comm]
 
 lemma exists_lt_succ : (∃ m < n + 1, p m) ↔ (∃ m < n, p m) ∨ p n := by
-  rw [← not_iff_not]
-  push_neg
+  classical
+  rw [← Decidable.not_iff_not]
+  simp [not_exists, not_or]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Init.lean:153]: Squeeze or `simpa` or add `forall_lt_succ` to the `simp` arguments or something

File: Mathlib/Data/Nat/Init.lean [hunk 4]
```diff
@@ -1076,12 +986,14 @@ lemma add_mod_eq_ite :
     (m + n) % k = if k ≤ m % k + n % k then m % k + n % k - k else m % k + n % k := by
   cases k
   · simp
-  rw [Nat.add_mod]
-  split_ifs with h
-  · rw [Nat.mod_eq_sub_mod h, Nat.mod_eq_of_lt]
-    exact (Nat.sub_lt_iff_lt_add h).mpr (Nat.add_lt_add (m.mod_lt (zero_lt_succ _))
-      (n.mod_lt (zero_lt_succ _)))
-  · exact Nat.mod_eq_of_lt (Nat.lt_of_not_ge h)
+  case succ k =>
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Init.lean:989]: I think you might as well switch to `cases k with`

File: Mathlib/Data/Nat/Init.lean [hunk 5]
```diff
@@ -40,7 +39,7 @@ finsets, powers in groups, ...).
 Less basic uses of `ℕ` and `ℤ` should however use the typeclass-mediated development.
 
 The relevant files are:
-* `Data.Nat.Defs` for the continuation of the home-baked development on `ℕ`
+* `Data.Nat.Init` for the continuation of the home-baked development on `ℕ`
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Init.lean:42]: These should all have a `Mathlib.` prefix, but I won't insist

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks

File: Mathlib/Data/Nat/Init.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Data/Nat/Init.lean]: Ah right, sorry for the nonterminal `simp`!

File: Mathlib/Data/Nat/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/Data/Nat/Basic.lean]: I had to do a manual proof, that's what you meant right?

**Review by j-loreaux — COMMENTED** [review]
LGTM.

bors d+

File: Mathlib/Data/Nat/Init.lean [hunk 6]
```diff
@@ -40,16 +39,16 @@ finsets, powers in groups, ...).
...
-* `Data.Int.Defs` for the continuation of the home-baked development on `ℤ`
-* `Algebra.Group.Nat` for the monoid instances on `ℕ`
-* `Algebra.Group.Int` for the group instance on `ℤ`
-* `Algebra.Ring.Nat` for the semiring instance on `ℕ`
-* `Algebra.Ring.Int` for the ring instance on `ℤ`
-* `Algebra.Order.Group.Nat` for the ordered monoid instance on `ℕ`
-* `Algebra.Order.Group.Int` for the ordered group instance on `ℤ`
-* `Algebra.Order.Ring.Nat` for the ordered semiring instance on `ℕ`
-* `Algebra.Order.Ring.Int` for the ordered ring instance on `ℤ`
+* `Mathlib.Data.Nat.Init` for the continuation of the home-baked development on `ℕ`
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Data/Nat/Init.lean:42]: Nicely spotted!

**Comment by Vierkantor** [comment]
Let's merge this before it rots again!

bors merge
